US08426420B2
iii) (S)-2-({5-[2-((S)-2-(2-Fluoro-ethylcarbamoyl)-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-pentanedioic acid 5-tert-butyl ester 1-methyl ester
To a solution of 950 mg 5-[2-((S)-2-(2-Fluoro-ethylcarbamoyl)-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid in 15 ml DMF were added 0.39 ml DIPEA, 893 mg HATU and 596 mg H-Glu(OtBu)-OMe hydrochloride. After stirring for 24 h the solution was concentrated, taken up with dichloromethane and subsequently extracted with aqueous LiCl (4%), 0.1 M HCl and saturated NaHCO3. The crude product obtained after evaporation of the solvent was used in the subsequent reaction. Yield: 1.3 g.

reactant | 5-[2-((S)-2-(2-Fluoro-ethylcarbamoyl)-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid | 950 mg | FCCNC(=O)[C@H]1N(CCC1)C(COC1=CC(=NN1C1=CC=CC=C1)C(=O)O)=O | C19H21FN4O5
reactant | DIPEA | 0.39 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 893 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | H-Glu(OtBu)-OMe hydrochloride | 596 mg | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)OC.Cl
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | (S)-2-({5-[2-((S)-2-(2-Fluoro-ethylcarbamoyl)-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-pentanedioic acid 5-tert-butyl ester 1-methyl ester | COC([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NCCF)=O)C1=CC=CC=C1)=O | C29H38FN5O8
